US05919779
A mixture of 2-fluoro-3-tributylstannylpyridine (1.9 g), 3, 4-dibromothiophene (1.5 g) and Pd(Ph3P)2Cl2 (0.175 g) in N-methylpyrrolidinone (7.5 mL), in a sealed tube, was heated at 100° C. for 16 hours. The mixture was cooled and stirred with aqueous potassium fluoride for 6 hours. The mixture was diluted with ethyl acetate, washed with water, dried filtered and evaporated. The residue was fractionated by chromatography to give 3-bromo-4-(2-fluoropyridin-3-yl)thiophene (0.35 g), mp 48-50° C.

reactant | 2-fluoro-3-tributylstannylpyridine | 1.9 g | FC1=NC=CC=C1[Sn](CCCC)(CCCC)CCCC
reactant | 3, 4-dibromothiophene | 1.5 g | BrC1=CSC=C1Br | C4H2Br2S
reactant | potassium fluoride | [F-].[K+]
solvent | N-methylpyrrolidinone | 7.5 mL | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(Ph3P)2Cl2 | 0.175 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-bromo-4-(2-fluoropyridin-3-yl)thiophene | 0.35 g | BrC1=CSC=C1C=1C(=NC=CC1)F | C9H5BrFNS
